US07897619B2
A 60% dispersion of sodium hydride in mineral oil (9.6 mg, 251 μmol) was added to a mixture of 1-(isoquinolin-6-yl)-1H-pyrazol-4-amine (44 mg, 209 μmol) and (S)-tert-butyl 4-(4-chlorobenzyl)-1,2,3-oxathiazolidine-3-carboxylate-2,2-dioxide (109 mg, 314 μmol) in DMF (1 mL) at ambient temperature and the mixture was stirred at ambient temperature for 1.5 hours. H2O (15 mL) was added, and the mixture was extracted with DCM (4×15 mL). The combined organic layers were dried (MgSO4) and concentrated under reduced pressure. The resulting yellow solid was dissolved in DCM (3 mL), TFA (2 mL) was added, and the mixture was stirred at ambient temperature for 2 hours. Toluene (3 mL) was added, and the mixture was concentrated under reduced pressure. The resulting orange oil was dissolved in DCM, evaporated onto a silica gel plug, and purified by flash chromatography (Biotage Si 25+M, 5% to 10% 2 N NH3 in MeOH/DCM) to provide N-((S)-2-amino-3-(4-chlorophenyl)propyl)-1-(isoquinolin-6-yl)-1H-pyrazol-4-amine (18 mg, 23% yield) as an off-white solid. LCMS (API-ES) m/z (%): 412.2 (100%, M++H); 1H NMR (300 MHz, CDCl3) δ ppm 1.54 (br s, 3H), 2.62 (dd, J=13.1, 8.1 Hz, 1H), 2.79-2.94 (m, 2H), 3.15 (dd, J=11.8, 2.6 Hz, 1H), 3.25 (d, J=4.1 Hz, 1H), 7.17 (d, J=7.8 Hz, 2H), 7.31 (d, J=7.8 Hz, 2H) 7.45 (s, 2H), 7.64 (d, J=5.5 Hz, 1H), 7.89 (s, 1H), 8.00 (s, 2H), 8.51 (d, J=5.5 Hz, 1H), 9.20 (s, 1H). (S)-tert-Butyl 4-(4-chlorobenzyl)-1,2,3-oxathiazolidine-3-carboxylate 2,2-dioxide was prepared in a similar manner as that described for (S)-tert-butyl 4-(4-(trifluoromethyl)benzyl)-1,2,3-oxathiazolidine-3-carboxylate-2,2-dioxide in Scheme 1, using (S)-2-(tert-butoxycarbonylamino)-3-(4-chlorophenyl)propanoic acid (commercially available from 3B Scientific Corporation Product List (Order Number 3B3-011434)) instead of (S)-2-(tert-butoxycarbonylamino)-3-(4-(trifluoromethyl)phenyl)propanoic acid.

reactant | sodium hydride | [H-].[Na+]
reactant | 1-(isoquinolin-6-yl)-1H-pyrazol-4-amine | 209 μmol, 44 mg | C1=NC=CC2=CC(=CC=C12)N1N=CC(=C1)N | C12H10N4
reactant | (S)-tert-butyl 4-(4-chlorobenzyl)-1,2,3-oxathiazolidine-3-carboxylate-2,2-dioxide | 314 μmol, 109 mg | ClC1=CC=C(C[C@@H]2N(S(OC2)(=O)=O)C(=O)OC(C)(C)C)C=C1 | C14H18ClNO5S
reactant | H2O | 15 mL | O | H2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-((S)-2-amino-3-(4-chlorophenyl)propyl)-1-(isoquinolin-6-yl)-1H-pyrazol-4-amine | 18 mg, 23% yield | N[C@H](CNC=1C=NN(C1)C=1C=C2C=CN=CC2=CC1)CC1=CC=C(C=C1)Cl | C21H20ClN5
